US03996258
To solution of 34.4 grams of pentachlorobenzonitrile in tetrahydrofuran was added a mixture of 8.0 grams ethylene glycol, 8.0 grams of a 50% sodium hydride-mineral oil dispersion and 250 ml tetrahydrofuran. The resulting reaction mixture was heated at reflux for one hour and then poured into a large volume of water. Filtration afforded an almost colorless solid which was dissolved in tetrahydrofuran. Treatment with magnesium sulfate followed by filtration and removal of the solvent gave rise to beta-hydroxyethoxy-tetrachlorobenzonitrile. This material is identical basis both nmr and infrared spectral data to the product formed from the reaction of tetrachlorocyanophenol with ethylene oxide as set forth below.

reactant | pentachlorobenzonitrile | 34.4 grams | ClC1=C(C(=C(C(=C1C#N)Cl)Cl)Cl)Cl | C7Cl5N
reactant | ethylene glycol | 8.0 grams | C(CO)O | C2H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | beta-hydroxyethoxy-tetrachlorobenzonitrile | OCCOC1=C(C(=C(C(=C1C#N)Cl)Cl)Cl)Cl | C9H5Cl4NO2
